* Simulation models for the AFE shield. Placeholders, each marked as such,
* until the vendor models are fetched (they sit behind a vendor login):
* Microchip's MCP6021/2/3/4 macro model and TI's LM4040 model. A figure
* taken with these is a check of the arithmetic, not of the part.

* MCP6024 quad, ideal: 1e5 DC gain with a single pole at 100 Hz (10 MHz
* GBW, the datasheet's typical), output clamped 30 mV inside either rail,
* 10 ohm output resistance, no input limits, no slew limit, no offset,
* no noise. Port order is the SOIC-14 pin order, so KiCad's default pin
* mapping applies.
.subckt MCP6024_IDEAL OUT1 IN1- IN1+ VCC IN2+ IN2- OUT2 OUT3 IN3- IN3+ VEE IN4+ IN4- OUT4
X1 IN1+ IN1- OUT1 VCC VEE OPA_IDEAL_1
X2 IN2+ IN2- OUT2 VCC VEE OPA_IDEAL_1
X3 IN3+ IN3- OUT3 VCC VEE OPA_IDEAL_1
X4 IN4+ IN4- OUT4 VCC VEE OPA_IDEAL_1
.ends MCP6024_IDEAL

.subckt OPA_IDEAL_1 inp inn out vcc vee
E1 e 0 inp inn 1e5
R1 e p 1k
C1 p 0 1.59u
B1 o 0 V = max(min(V(p), V(vcc) - 0.03), V(vee) + 0.03)
R2 o out 10
.ends OPA_IDEAL_1

* LM4040-3.0 shunt reference, ideal: 3.000 V behind 0.5 ohm of dynamic
* impedance. Port order is the SOT-23 pin order of the KiCad symbol:
* 1 K, 2 A, 3 NC.
.subckt LM4040_3V0 K A NC
V1 K a1 DC 3.0
R1 a1 A 0.5
.ends LM4040_3V0
