* Evaluation only; no schematic or BOM substitution is implied.
.include "vendor/ti/OPAx350/OPAx350.LIB"

* OPA4350 D/SOIC-14, physical pins 1..14; SBOS099D section 5.
* Four independent cores do not model package crosstalk.
.subckt OPA4350_CANDIDATE OUT1 IN1- IN1+ VCC IN2+ IN2- OUT2 OUT3 IN3- IN3+ VEE IN4+ IN4- OUT4
X1 IN1+ IN1- VCC VEE OUT1 OPAx350
X2 IN2+ IN2- VCC VEE OUT2 OPAx350
X3 IN3+ IN3- VCC VEE OUT3 OPAx350
X4 IN4+ IN4- VCC VEE OUT4 OPAx350
.ends OPA4350_CANDIDATE
